US07342014B2
Benzyl 1-hydroxycyclopropanecarboxylate
Triethylamine (1.0 ml) and benzyl bromide (650 μl) were added to a solution of 1-hydroxycyclopropane-carboxylic acid (409 mg) in tetrahydrofuran (3.0 ml), and the mixture was stirred at room temperature for 23 hours. Methylene chloride and 1N hydrochloric acid were added to the reaction mixture to separate the mixture into two layers. An organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated aqueous solution of sodium chloride and then dried over anhydrous sodium sulfate. A crude product was purified by column chromatography on silica gel (hexane:ethyl acetate=41) to obtain the title compound (607 mg).

reactant | Triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 650 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 1-hydroxycyclopropane-carboxylic acid | 409 mg | OC1(CC1)C(=O)O | C4H6O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
product | Benzyl 1-hydroxycyclopropanecarboxylate | 607 mg | OC1(CC1)C(=O)OCC1=CC=CC=C1 | C11H12O3
